US04205085
N-{4-[15-(Trifluoromethyl)pentadecylamino]benzoyl}glycine
A mixture of 26.4 g. of ethyl 4-[15-(trifluoromethyl)pentadecylamino]hippurate, 110 ml. of 1 N sodium hydroxide solution; and 100 ml. of ethanol is stirred at ambient temperature for 2 hours and then partially evaporated. The aqueous solution is washed with diethyl ether, acidified with 6 N hydrochloric acid, and filtered. The solid is dried in vacuo and recrystallized from acetone to yield the product as a white solid.

reactant | ethyl 4-[15-(trifluoromethyl)pentadecylamino]hippurate | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(NCC(=O)OCC)=O)C=C1)(F)F | C27H43F3N2O3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | N-{4-[15-(Trifluoromethyl)pentadecylamino]benzoyl}glycine | FC(CCCCCCCCCCCCCCCNC1=CC=C(C(=O)NCC(=O)O)C=C1)(F)F | C25H39F3N2O3
